US04667033
4-Bromo-thiophen-2-aldehyde is reacted with imidazol to 4-(imidazol-1-yl)-thiophen-2-aldehyde which is reacted with the necessary acid nitrile to 4-[4-(imidazol-1-yl)-thien-2-yl]-4-oxo-butyric acid nitrile which is hydrolized to 4-[4-(imidazol-1-yl)-thien-2-yl]-4-oxo-butyric acid. This compound is reacted with hydrazine hydrate to yield 4.5-dihydro-6-[4-(imidazol-1-yl)-thien-2-yl]-3-(2H)-pyridazinone which is subsequently dehydrogenated with 3-nitrobenzolsulfonic acid.

reactant | 4-Bromo-thiophen-2-aldehyde | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | imidazol | N1C=NC=C1 | C3H4N2
reactant | 4-(imidazol-1-yl)-thiophen-2-aldehyde | N1(C=NC=C1)C=1C=C(SC1)C=O | C8H6N2OS
reactant | 4-[4-(imidazol-1-yl)-thien-2-yl]-4-oxo-butyric acid | N1(C=NC=C1)C=1C=C(SC1)C(CCC(=O)O)=O | C11H10N2O3S
reactant | hydrazine hydrate | O.NN
product | 4.5-dihydro-6-[4-(imidazol-1-yl)-thien-2-yl]-3-(2H)-pyridazinone | N1(C=NC=C1)C=1C=C(SC1)C=1CCC(NN1)=O | C11H10N4OS
